US05436257
21(a) 3,5-dimethyl-4-methoxymethoxybenzaldehyde
A solution of 9.0 g of 3,5-dimethyl-4-hydroxybenzaldehyde in 20 ml of dimethylformamide was added dropwise and whilst ice-cooling to a suspension of 3.14 g of a 55% w/w dispersion of sodium hydride in 50 ml of dimethylformamide. The mixture was then stirred for 20 minutes, after which 5.8 g of methyl chloromethyl ether were added, whilst ice-cooling. The resulting mixture was then stirred at room temperature for one hour. At the end of this time, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was then washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure to give 11.0 g of the title compound.

reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 9.0 g | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl chloromethyl ether | 5.8 g | ClCOC | C2H5ClO
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3,5-dimethyl-4-methoxymethoxybenzaldehyde | 11.0 g | CC=1C=C(C=O)C=C(C1OCOC)C | C11H14O3
